US05314885
A solution of 3-cyanobenzyl bromide (10.0 g, 0.051 mol), commercially available from Aldrich Chemical, and acetonitrile (250 mL) was added to a mixture of N-[2-(methylethoxy)phenyl]piperazine hydrochloride (13.10 g, 0.051 mol, prepared according to Martin, G. E., et al, J. Med. Chem., 1989, 32, 1052), K2CO3 (21.15 g, 0.153 mol) and acetonitrile (250 mL) and the resulting mixture was stirred at reflux under nitrogen for 6.75 hours. The reaction was cooled, concentrated to dryness, and the residue partitioned between CH2Cl2 and aqueous NaHCO3. The organic layer was separated, dried over anhydrous Na2SO4, and evaporated to give a gummy residue. This material was chromatographed on silica gel (CH3OH:CH2Cl2 /2:98 eluant) to produce 3-[[1-[2-(1-methylethoxy)phenyl]-4-piperazinyl]methyl]benzonitrile as a yellow gum, 10.86 g. A solution of this material (10.36 g, 0.031 mol) and anhydrous ether (500 mL) was added dropwise to a slurry of LiAIH4 (1.17 g, 0.031 mol) in anhydrous ether (500 mL) under N2 at room temperature. The reaction was stirred at reflux for 5.5 hours at which point additional LiAlH4 (1.17 g, 0.031 mol) was added. After stirring at reflux for 12 hours, the reaction was cooled in an ice bath and treated slowly with H2O (100 mL), 20% aqueous NAOH (100 mL), and H2O (100 mL) in that order, followed by extraction with diethyl ether. The ether layer was separated, dried over anhydrous Na2SO4, filtered, and evaporated to give 3-[[1-[2-(1-methylethoxy)phenyl]-4-piperazinyl]methyl]benzyl amine as a pale yellow gum, 8.07 g.

reactant | 3-cyanobenzyl bromide | 0.051 mol, 10.0 g | C(#N)C=1C=C(CBr)C=CC1 | C8H6BrN
reactant | N-[2-(methylethoxy)phenyl]piperazine hydrochloride | 0.051 mol, 13.10 g | Cl.CC(C)OC1=C(C=CC=C1)N1CCNCC1
reactant | K2CO3 | 0.153 mol, 21.15 g | C(=O)([O-])[O-].[K+].[K+]
solvent | acetonitrile | 250 mL | C(C)#N | C2H3N
solvent | acetonitrile | 250 mL | C(C)#N | C2H3N
product | 3-[[1-[2-(1-methylethoxy)phenyl]-4-piperazinyl]methyl]benzonitrile | CC(C)OC1=C(C=CC=C1)N1CCN(CC1)CC=1C=C(C#N)C=CC1 | C21H25N3O
